* Created by KLayout
*** My special header ***

* cell opamp
* pin ib
* pin vdd
* pin vinn
* pin vinp
* pin vss
.SUBCKT opamp ib vdd vinn vinp vss
* device instance $1 r0 *1 -174,-246.5 PMOS
XM$1 vdd vdd \$432 vdd PMOS L=5u W=25u AS=70p AD=37.5p PS=55.6u PD=28u
* device instance $2 r0 *1 -166,-246.5 PMOS
XM$2 \$432 vinn \$277 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $3 r0 *1 -158,-246.5 PMOS
XM$3 \$277 vinn \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $4 r0 *1 -150,-246.5 PMOS
XM$4 \$432 vinp \$56 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $5 r0 *1 -142,-246.5 PMOS
XM$5 \$56 vinp \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $6 r0 *1 -134,-246.5 PMOS
XM$6 \$432 vinn \$277 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $7 r0 *1 -126,-246.5 PMOS
XM$7 \$277 vinn \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $8 r0 *1 -118,-246.5 PMOS
XM$8 \$432 vinp \$56 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $9 r0 *1 -110,-246.5 PMOS
XM$9 \$56 vinp \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $10 r0 *1 -102,-246.5 PMOS
XM$10 \$432 vinn \$277 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $11 r0 *1 -94,-246.5 PMOS
XM$11 \$277 vinn \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $12 r0 *1 -86,-246.5 PMOS
XM$12 \$432 vinp \$56 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $13 r0 *1 -78,-246.5 PMOS
XM$13 \$56 vinp \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $14 r0 *1 -70,-246.5 PMOS
XM$14 \$432 vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $15 r0 *1 -62,-246.5 PMOS
XM$15 vdd vdd \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $16 r0 *1 -54,-246.5 PMOS
XM$16 \$432 vinp \$56 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $17 r0 *1 -46,-246.5 PMOS
XM$17 \$56 vinp \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $18 r0 *1 -38,-246.5 PMOS
XM$18 \$432 vinn \$277 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $19 r0 *1 -30,-246.5 PMOS
XM$19 \$277 vinn \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $20 r0 *1 -22,-246.5 PMOS
XM$20 \$432 vinp \$56 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $21 r0 *1 -14,-246.5 PMOS
XM$21 \$56 vinp \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $22 r0 *1 -6,-246.5 PMOS
XM$22 \$432 vinn \$277 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $23 r0 *1 2,-246.5 PMOS
XM$23 \$277 vinn \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $24 r0 *1 10,-246.5 PMOS
XM$24 \$432 vinp \$56 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $25 r0 *1 18,-246.5 PMOS
XM$25 \$56 vinp \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $26 r0 *1 26,-246.5 PMOS
XM$26 \$432 vinn \$277 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $27 r0 *1 34,-246.5 PMOS
XM$27 \$277 vinn \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $28 r0 *1 42,-246.5 PMOS
XM$28 \$432 vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $29 r0 *1 50,-246.5 PMOS
XM$29 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $30 r0 *1 58,-246.5 PMOS
XM$30 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $31 r0 *1 66,-246.5 PMOS
XM$31 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $32 r0 *1 74,-246.5 PMOS
XM$32 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $33 r0 *1 82,-246.5 PMOS
XM$33 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $34 r0 *1 90,-246.5 PMOS
XM$34 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $35 r0 *1 98,-246.5 PMOS
XM$35 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $36 r0 *1 106,-246.5 PMOS
XM$36 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $37 r0 *1 114,-246.5 PMOS
XM$37 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $38 r0 *1 122,-246.5 PMOS
XM$38 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $39 r0 *1 130,-246.5 PMOS
XM$39 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $40 r0 *1 138,-246.5 PMOS
XM$40 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $41 r0 *1 146,-246.5 PMOS
XM$41 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $42 r0 *1 154,-246.5 PMOS
XM$42 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $43 r0 *1 162,-246.5 PMOS
XM$43 vdd vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=70p PS=28u PD=55.6u
* device instance $44 r0 *1 -174,-206.5 PMOS
XM$44 vdd vdd vdd vdd PMOS L=5u W=25u AS=70p AD=37.5p PS=55.6u PD=28u
* device instance $45 r0 *1 -166,-206.5 PMOS
XM$45 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $46 r0 *1 -158,-206.5 PMOS
XM$46 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $47 r0 *1 -150,-206.5 PMOS
XM$47 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $48 r0 *1 -142,-206.5 PMOS
XM$48 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $49 r0 *1 -134,-206.5 PMOS
XM$49 vdd vdd \$144 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $50 r0 *1 -126,-206.5 PMOS
XM$50 \$144 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $51 r0 *1 -118,-206.5 PMOS
XM$51 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $52 r0 *1 -110,-206.5 PMOS
XM$52 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $53 r0 *1 -102,-206.5 PMOS
XM$53 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $54 r0 *1 -94,-206.5 PMOS
XM$54 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $55 r0 *1 -86,-206.5 PMOS
XM$55 vdd ib ib vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $56 r0 *1 -78,-206.5 PMOS
XM$56 ib vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $57 r0 *1 -70,-206.5 PMOS
XM$57 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $58 r0 *1 -62,-206.5 PMOS
XM$58 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $59 r0 *1 -54,-206.5 PMOS
XM$59 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $60 r0 *1 -46,-206.5 PMOS
XM$60 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $61 r0 *1 -38,-206.5 PMOS
XM$61 vdd ib \$144 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $62 r0 *1 -30,-206.5 PMOS
XM$62 \$144 vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $63 r0 *1 -22,-206.5 PMOS
XM$63 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $64 r0 *1 -14,-206.5 PMOS
XM$64 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $65 r0 *1 -6,-206.5 PMOS
XM$65 vdd ib \$432 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $66 r0 *1 2,-206.5 PMOS
XM$66 \$432 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $67 r0 *1 10,-206.5 PMOS
XM$67 vdd vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $68 r0 *1 18,-206.5 PMOS
XM$68 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $69 r0 *1 26,-206.5 PMOS
XM$69 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $70 r0 *1 34,-206.5 PMOS
XM$70 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $71 r0 *1 42,-206.5 PMOS
XM$71 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $72 r0 *1 50,-206.5 PMOS
XM$72 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $73 r0 *1 58,-206.5 PMOS
XM$73 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $74 r0 *1 66,-206.5 PMOS
XM$74 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $75 r0 *1 74,-206.5 PMOS
XM$75 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $76 r0 *1 82,-206.5 PMOS
XM$76 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $77 r0 *1 90,-206.5 PMOS
XM$77 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $78 r0 *1 98,-206.5 PMOS
XM$78 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $79 r0 *1 106,-206.5 PMOS
XM$79 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $80 r0 *1 114,-206.5 PMOS
XM$80 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $81 r0 *1 122,-206.5 PMOS
XM$81 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $82 r0 *1 130,-206.5 PMOS
XM$82 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $83 r0 *1 138,-206.5 PMOS
XM$83 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $84 r0 *1 146,-206.5 PMOS
XM$84 vdd ib \$222 vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $85 r0 *1 154,-206.5 PMOS
XM$85 \$222 ib vdd vdd PMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $86 r0 *1 162,-206.5 PMOS
XM$86 vdd vdd vdd vdd PMOS L=5u W=25u AS=37.5p AD=70p PS=28u PD=55.6u
* device instance $87 r0 *1 -174,-354 NMOS
XM$87 vss vss vss vss NMOS L=5u W=25u AS=70p AD=37.5p PS=55.6u PD=28u
* device instance $88 r0 *1 -166,-354 NMOS
XM$88 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $89 r0 *1 -158,-354 NMOS
XM$89 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $90 r0 *1 -150,-354 NMOS
XM$90 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $91 r0 *1 -142,-354 NMOS
XM$91 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $92 r0 *1 -134,-354 NMOS
XM$92 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $93 r0 *1 -126,-354 NMOS
XM$93 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $94 r0 *1 -118,-354 NMOS
XM$94 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $95 r0 *1 -110,-354 NMOS
XM$95 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $96 r0 *1 -102,-354 NMOS
XM$96 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $97 r0 *1 -94,-354 NMOS
XM$97 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $98 r0 *1 -86,-354 NMOS
XM$98 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $99 r0 *1 -78,-354 NMOS
XM$99 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $100 r0 *1 -70,-354 NMOS
XM$100 vss \$198 \$198 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $101 r0 *1 -62,-354 NMOS
XM$101 \$198 \$144 \$144 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $102 r0 *1 -54,-354 NMOS
XM$102 \$144 \$144 \$201 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $103 r0 *1 -46,-354 NMOS
XM$103 \$201 \$201 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $104 r0 *1 -38,-354 NMOS
XM$104 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $105 r0 *1 -30,-354 NMOS
XM$105 vss vss \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $106 r0 *1 -22,-354 NMOS
XM$106 \$56 \$144 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $107 r0 *1 -14,-354 NMOS
XM$107 \$222 \$144 \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $108 r0 *1 -6,-354 NMOS
XM$108 \$56 \$144 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $109 r0 *1 2,-354 NMOS
XM$109 \$222 \$144 \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $110 r0 *1 10,-354 NMOS
XM$110 \$56 vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $111 r0 *1 18,-354 NMOS
XM$111 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $112 r0 *1 26,-354 NMOS
XM$112 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $113 r0 *1 34,-354 NMOS
XM$113 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $114 r0 *1 42,-354 NMOS
XM$114 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $115 r0 *1 50,-354 NMOS
XM$115 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $116 r0 *1 58,-354 NMOS
XM$116 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $117 r0 *1 66,-354 NMOS
XM$117 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $118 r0 *1 74,-354 NMOS
XM$118 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $119 r0 *1 82,-354 NMOS
XM$119 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $120 r0 *1 90,-354 NMOS
XM$120 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $121 r0 *1 98,-354 NMOS
XM$121 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $122 r0 *1 106,-354 NMOS
XM$122 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $123 r0 *1 114,-354 NMOS
XM$123 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $124 r0 *1 122,-354 NMOS
XM$124 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $125 r0 *1 130,-354 NMOS
XM$125 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $126 r0 *1 138,-354 NMOS
XM$126 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $127 r0 *1 146,-354 NMOS
XM$127 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $128 r0 *1 154,-354 NMOS
XM$128 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $129 r0 *1 162,-354 NMOS
XM$129 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=70p PS=28u PD=55.6u
* device instance $130 r0 *1 -174,-314 NMOS
XM$130 vss vss vss vss NMOS L=5u W=25u AS=70p AD=37.5p PS=55.6u PD=28u
* device instance $131 r0 *1 -166,-314 NMOS
XM$131 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $132 r0 *1 -158,-314 NMOS
XM$132 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $133 r0 *1 -150,-314 NMOS
XM$133 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $134 r0 *1 -142,-314 NMOS
XM$134 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $135 r0 *1 -134,-314 NMOS
XM$135 vss \$277 \$277 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $136 r0 *1 -126,-314 NMOS
XM$136 \$277 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $137 r0 *1 -118,-314 NMOS
XM$137 vss \$277 \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $138 r0 *1 -110,-314 NMOS
XM$138 \$56 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $139 r0 *1 -102,-314 NMOS
XM$139 vss \$277 \$277 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $140 r0 *1 -94,-314 NMOS
XM$140 \$277 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $141 r0 *1 -86,-314 NMOS
XM$141 vss \$277 \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $142 r0 *1 -78,-314 NMOS
XM$142 \$56 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $143 r0 *1 -70,-314 NMOS
XM$143 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $144 r0 *1 -62,-314 NMOS
XM$144 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $145 r0 *1 -54,-314 NMOS
XM$145 vss \$277 \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $146 r0 *1 -46,-314 NMOS
XM$146 \$56 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $147 r0 *1 -38,-314 NMOS
XM$147 vss \$277 \$277 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $148 r0 *1 -30,-314 NMOS
XM$148 \$277 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $149 r0 *1 -22,-314 NMOS
XM$149 vss \$277 \$56 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $150 r0 *1 -14,-314 NMOS
XM$150 \$56 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $151 r0 *1 -6,-314 NMOS
XM$151 vss \$277 \$277 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $152 r0 *1 2,-314 NMOS
XM$152 \$277 \$277 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $153 r0 *1 10,-314 NMOS
XM$153 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $154 r0 *1 18,-314 NMOS
XM$154 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $155 r0 *1 26,-314 NMOS
XM$155 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $156 r0 *1 34,-314 NMOS
XM$156 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $157 r0 *1 42,-314 NMOS
XM$157 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $158 r0 *1 50,-314 NMOS
XM$158 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $159 r0 *1 58,-314 NMOS
XM$159 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $160 r0 *1 66,-314 NMOS
XM$160 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $161 r0 *1 74,-314 NMOS
XM$161 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $162 r0 *1 82,-314 NMOS
XM$162 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $163 r0 *1 90,-314 NMOS
XM$163 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $164 r0 *1 98,-314 NMOS
XM$164 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $165 r0 *1 106,-314 NMOS
XM$165 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $166 r0 *1 114,-314 NMOS
XM$166 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $167 r0 *1 122,-314 NMOS
XM$167 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $168 r0 *1 130,-314 NMOS
XM$168 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $169 r0 *1 138,-314 NMOS
XM$169 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $170 r0 *1 146,-314 NMOS
XM$170 vss \$56 \$222 vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $171 r0 *1 154,-314 NMOS
XM$171 \$222 \$56 vss vss NMOS L=5u W=25u AS=37.5p AD=37.5p PS=28u PD=28u
* device instance $172 r0 *1 162,-314 NMOS
XM$172 vss vss vss vss NMOS L=5u W=25u AS=37.5p AD=70p PS=28u PD=55.6u
* device instance $173 r90 *1 247.4,-324.6 F_CSIO
XC$173 \$222 \$222 vss F_CSIO C=4.9536e-12 A=8256p P=364u X=86 Y=96 m=1
* device instance $174 r90 *1 352.6,-324.6 F_CSIO
XC$174 \$222 \$222 vss F_CSIO C=4.9536e-12 A=8256p P=364u X=86 Y=96 m=1
* device instance $175 r90 *1 247.4,-229.4 F_CSIO
XC$175 \$222 \$222 vss F_CSIO C=4.9536e-12 A=8256p P=364u X=86 Y=96 m=1
* device instance $176 r90 *1 352.6,-229.4 F_CSIO
XC$176 \$222 \$222 vss F_CSIO C=4.9536e-12 A=8256p P=364u X=86 Y=96 m=1
.ENDS opamp
